data/preprocessed/pmechdb_split_0.csv
split,source_db,step_idx_retro,rxn_idx,mech_smi
train,pmechdb_split_0,0,8612,"C1CC2CC1OC2[OH+:1][H:2].[Br-:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,7939,"CO[PH:1](OC)(OC)[Br:2]|((1, 2), 2)"
train,pmechdb_split_0,0,7156,"CC[O:1][C:2]1([O-:3])CCC(=O)C1|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,2059,"C1=CC=[N:1]C=C1.O=S(=O)(OS(=O)([O-])(C(F)(F)F)[O+:2](C1=CC=CC=C1)[H:3])C(F)(F)F|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,3606,"CN1C([CH:1]([N:2](C)C)[Cl:3])=CC2=C1CCCC2.O=P(O)(Cl)Cl|(2, 1);((1, 3), 3)"
train,pmechdb_split_0,0,5998,"CC(C)[NH2:1].[CH3:2][I:3]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,8590,"CC(C)[N-:1]C(C)C.C[CH:2]([H:3])[C:4](C)(Br)[Br:5]|(1, 3);((3, 2), 4);((4, 5), 5)"
train,pmechdb_split_0,0,10044,"[C-]#N.[H:1][O:2][CH:3]=[NH2+:4].[NH3:5]|(5, 1);((1, 2), 3);((3, 4), 4)"
train,pmechdb_split_0,0,7881,"CC(=O)OC1=C(C2CC(=O)[O:1][C:2](C)([O-:3])O2)C(O)=CC2=C1C1CC3CCC(C)(O2)C31.[K+]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,5820,"CO[Si:1](C)(C)C.CS(=O)(=O)[O-:2]|(2, 1)"
train,pmechdb_split_0,0,3055,"CC(C)(C)[O-:1].COC1=C2OC3C45CCN(CC6CCC6)C(CC(=C24)C=C1)C5[CH:2]([H:3])[CH:4]([Br:5])C3(OC)OC.CS(C)=O.[K+]|(1, 3);((3, 2), 4);((4, 5), 5)"
train,pmechdb_split_0,0,8019,"CC(C)O.CC(C)[O][Al-]1([O]C(C)C)[O+:1]=[C:2]2CC3(OCCO3)C3(C)CC4OC(C)(C)OC4CC3[C:3]2([H:4])[O:5]1|(5, 3);((3, 4), 2);((2, 1), 1)"
train,pmechdb_split_0,0,2086,"CC(=O)O[C:1](C)=[O:2].OCC(O)C=N[OH:3]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,9075,"CC(=O)[O-:1].C[P+:2](C)(C)[O:3][CH3:4]|(1, 4);((4, 3), 2)"
train,pmechdb_split_0,0,4237,"CC(O)C[NH2:1].O=C(C1=CC=CC=C1)[CH2:2][Cl:3]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,7319,"CC(C)[O-:1].[AlH3:2]|(1, 2)"
train,pmechdb_split_0,0,8391,"CO[C:1](OC)=[OH+:2].C[NH2:3]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,9181,"C1=CC2=C(C=C1)C=C1C(=C2)C(=NC2=C([NH2:1])C=CC=C2)[C:2]1=[O:3].CC(=O)O.CO.O|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,9753,"CC(C)[C+:1]1CCCC1.[OH2:2]|(2, 1)"
train,pmechdb_split_0,0,1322,"CC(C(C)C1=CC=CC=C1)=[O:1].[AlH4-].[Li+:2]|(1, 2)"
train,pmechdb_split_0,0,1158,"C[C:1](C)(C)[OH+:2]C|((1, 2), 2)"
train,pmechdb_split_0,0,7311,"CC[NH:1]CC.COC1(OC)[CH:2]=[CH:3]1|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,8226,"CC(C)=O.CC(C)O.COC1=CC2=C(C=C1)CCN1C(=O)C=C3C=CC([O:1][Al-]([OH])([O]C(C)C)[O]C(C)C)CC321.[H:2][OH2+:3]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,3959,"CCNC[CH:1]=[C:2](C)[O-:3].[H:4][OH2+:5]|(3, 2);((2, 1), 4);((4, 5), 5)"
train,pmechdb_split_0,0,8456,"CC(C)[O][Al-]([O]C(C)C)([O]C(C)C)[O+:1]1C2CCCC[C:2]21[C:3]1([OH:4])CCC[CH2:5]1|(4, 3);((3, 5), 2);((2, 1), 1)"
train,pmechdb_split_0,0,2040,"CC[OH:1].O=S(=O)([O-])O.OC(C1=CC=CC=C1)[C:2](O)=[OH+:3]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,9189,"OCC1C(O)C(O)C[CH:1]([OH2+:2])[O:3]1.[Cl-]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,7152,"CCO.NC1=N[C:1](=[NH2+:2])[C:3](=[CH:4]Cl)C=C1.[Cl-].[Na+].[OH2:5]|(5, 4);((4, 3), 1);((1, 2), 2)"
train,pmechdb_split_0,0,7220,"O[C:1](O)=[OH+:2].[OH2:3]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,8376,"C1=CC=C([OH+:1][K:2])C=C1|((2, 1), 1)"
train,pmechdb_split_0,0,1789,"CC(CC(=O)[Cl:1])CC1CCCC1.[Cl][Al:2]([Cl])[Cl]|(1, 2)"
train,pmechdb_split_0,0,6789,"C1CCOC1.CC(=O)[O-].CCOC(=O)C(C(C[C:1](C(=O)OCC)=[OH+:2])C1=C([N+](=O)[O-])C(N2CCCCC2)=CC=C1)=[O:3]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,551,"CCOC(=O)NN(C(OCC)=[O:1])P(OCC1=CC2=C(C=CC=C2)C=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1.O=C(CCCC=C(F)F)[O:2][H:3]|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,3639,"C[C:1](C1=CC=CC=C1)([H:2])[CH+:3]C|((1, 2), 3)"
train,pmechdb_split_0,0,2232,"C1=CC=CC=C1.CC(=O)CCC(C)(O)[NH+:1](CCOCCO)[H:2].CC(=O)[O-:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,9013,"CC1=CC=C(S(=O)(=O)[O:1][CH:2](C)[O-:3])C=C1|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,1741,"C1CCC2=[N+:1]([H:2])CCCN2CC1.COC(=O)C(C[C:3](Br)=[C:4](OC)[O-:5])C(C)=O|(5, 4);((4, 3), 2);((2, 1), 1)"
train,pmechdb_split_0,0,143,"ClC12C3CCC(C3)C(C3CC=CC31)C2[O-:1].[AlH3].[Li+:2]|(1, 2)"
train,pmechdb_split_0,0,532,"C[NH:1][S:2](C)=[O:3]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,3570,"CC(NC(=O)OCC1C2=CC=CC=C2C2=C1C=CC=C2)[C:1](OC(=NC1CCCCC1)NC1CCCCC1)=[O:2].COC1=CC=C(COC(=O)C(CCO)[NH2:3])C=C1|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,3395,"C1CCOC1.COC(=O)C1(C)CCCC2(C)C1CCCC21OCC[O:1]1.O.[H:2][Cl:3]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,2044,"CC(C)C1CC([Si](C)(C)C)[C:1](=[CH2:2])C1(C)CO[Si](C)(C)C(C)(C)C.CCOCC.CCO[B-](F)(F)F.COCOC(C)C1CC=C(C)[CH:3]=[O+:4]1|((1, 2), 3);((3, 4), 4)"
train,pmechdb_split_0,0,7206,"C[O+:1]=[CH:2][OH:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,7350,"C[Si](C)(C)C[C:1]#[C:2]COC[C+:3](C)C|((1, 2), 3)"
train,pmechdb_split_0,0,10338,"CCCCCC1C(C[CH2:1][O:2]S(=O)(=O)C2=CC=C(C)C=C2)C[CH:3]=[CH:4]1|((4, 3), 1);((1, 2), 2)"
train,pmechdb_split_0,0,4259,"C[Si](C)(C)C[C:1]#[CH:2].C[Si](C)(C)[O+:3](C)[Br:4]|((1, 2), 4);((4, 3), 3)"
train,pmechdb_split_0,0,581,"COC1=C(O)C2=C(C=C1)CC1C3C[CH:1]([OH+:2]C)C(O)=CC23CCN1C1=CC=CC=C1|((1, 2), 2)"
train,pmechdb_split_0,0,9664,"CN(C)[C:1]1=[CH:2]C=C(Br)C=C1Br.[Br:3][Br:4]|((1, 2), 3);((3, 4), 4)"
